US07256198B2
Step 6: 8-{[(2S)-2-(Phenoxymethyl)pyrrolidin-1-yl]sulfonyl}-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one]
To cold concentrated HCl (8.5 mL) was added a solution of 8′-{[(2S)-2-(phenoxymethyl)pyrrolidin-1-yl]sulfonyl}-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] (0.430 g, 0.889 mmol) in 1,4 dioxane (2 mL) drop-wise over a period of 20 minutes with cooling in an ice bath. The mixture was stirred at room temperature (16 hours) then heated at 53° C. (36 hours). The mixture was cooled in an ice bath, poured into ice, and basified with concentrated NH4OH to pH 11 keeping the temperature below 5° C. The organics were extracted with EtOAc (2×). The combined organic extracts were dried over MgSO4, filtered and concentrated. The crude product was flash chromatographed on Biotage KP silica gel eluting with 95/5 (EtOAc/CH3OH) to give the title compound which was dried in vacuo at 61° C. to give the analytically pure sample as an orange-brown solid (0.074 g, 19.5% yield). Anal. Calc'd for C22H23N3O4S: C, 62.10; H, 5.45; N, 9.88. Found: C, 61.89; H, 5.50; N, 9.65. NMR (400 MHz, DMSO-d6): consistent. MS: (ES+) m/z 426 [M+H]. MS: (ES−) m/z 424 [M−H]. m.p.: 159-160° C.

reactant | HCl | 8.5 mL | Cl | ClH
reactant | 8′-{[(2S)-2-(phenoxymethyl)pyrrolidin-1-yl]sulfonyl}-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] | 0.889 mmol, 0.430 g | O(C1=CC=CC=C1)C[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C3(C=4N(C2C=C1)CCCN4)OCCCO3 | C25H29N3O5S
reactant | NH4OH | [NH4+].[OH-]
solvent | 1,4 dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 8-{[(2S)-2-(Phenoxymethyl)pyrrolidin-1-yl]sulfonyl}-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | O(C1=CC=CC=C1)C[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C(C=3N(C2C=C1)CCCN3)=O | C22H23N3O4S
